US07659364B2
c) N-Methyl-S-trityl-L-homocysteine
7.5 g (0.046 mol) of N-methyl-L-methionine is introduced, and 200 ml of ammonia is condensed while being cooled with MeOH/dry ice. At −35° C., 5.2 g (0.23 mol) of sodium is added in portions over one hour and stirred for two more hours. Then, 9.7 g (0.18 mol) of ammonium chloride is added in portions, the cooling is withdrawn, and the ammonia is driven off overnight with nitrogen. 14.0 g (0.054 mol) of triphenylmethanol is added. While being cooled with ice, 50 ml of dichloromethane and 90 ml of trifluoroacetic acid are then added. It is stirred for one hour at room temperature and evaporated to the dry state. The residue is suspended in 200 ml of water and brought to pH 13 with sodium hydroxide solution. After one more hour of stirring, it is suctioned off, and the solid is suspended in 500 ml of water. By adding citric acid, it is set at pH 4. 600 ml of MTBE is added and stirred for 30 minutes. It is suctioned off and washed twice with 100 ml each of MTBE. The residue is mixed with 100 ml of dichloromethane, 20 ml of ethanol is added, and then 500 ml of MTBE is added in drops. It is stirred for one more hour, suctioned off, washed with MTBE. After drying, 12.6 g (0.032 mol, 70% of theory) of a colorless solid is obtained.

reactant | N-methyl-L-methionine | 0.046 mol, 7.5 g | CN[C@@H](CCSC)C(=O)O | C6H13NO2S
reactant | ammonia | 200 ml | N | H3N
reactant | MeOH dry ice | CO.C(=O)=O
reactant | sodium | 0.23 mol, 5.2 g | [Na] | Na
reactant | ammonium chloride | 0.18 mol, 9.7 g | [Cl-].[NH4+]
reactant | triphenylmethanol | 0.054 mol, 14.0 g | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
reactant | trifluoroacetic acid | 90 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Methyl-S-trityl-L-homocysteine | CN[C@@H](CCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C24H25NO2S
